US05780483
Preparation of N-[2-hydroxy-4-(trifluoromethyl) phenyl]-N'-phenyl urea
N-[2-Hydroxy-4-(trifluoromethyl) phenyl]-N'-phenyl urea was prepared from 2-amino-5-trifluoromethylphenol (150 mg, 1.09 mmol) and phenyl isocyanate(1.09 mmol) according to the procedure in General method A. The product was purified by precipitation from methylene chloride and filtering to afford the titled compound (230 mg, 87% ). mp: °C.; 1H NMR (DMSO-d6): d 9.45 (s, 1H, NH), 8.50 (s, 1H, NH), 8.31 (d, 1H, J=10.0 Hz), 7.45 (d, 2H, J=10.0 Hz), 7.29 (t, 2H, J=6.67 Hz), 7.10 (m, 2H), 6.99 (t, 1H, J=6.67 Hz). EI-MS mz 296 (M+). Anal. (C14 H11N2O2F3)C, H, N.

reactant | 2-amino-5-trifluoromethylphenol | 1.09 mmol, 150 mg | NC1=C(C=C(C=C1)C(F)(F)F)O | C7H6F3NO
reactant | phenyl isocyanate | 1.09 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[2-hydroxy-4-(trifluoromethyl) phenyl]-N'-phenyl urea | 230 mg, 87% | OC1=C(C=CC(=C1)C(F)(F)F)NC(=O)NC1=CC=CC=C1 | C14H11F3N2O2
